US04346097
5-Hydroxy-1,3-dimethyl-N-(2-methylphenyl)-1H-pyrazole-4-carboxamide
A mixture of 22.4 g (0.2 mol) 5-hydroxy-1,3-dimethyl-1H-pyrazole [K. Auwers, J.Prakt.Chem., 110, 153 (1925)], 26.6 g (0.2 mol) o-tolylisocyanate in 150 ml xylene containing 1 ml triethylamine is heated to reflux for 1.5 hours.

reactant | 5-hydroxy-1,3-dimethyl-1H-pyrazole | 0.2 mol, 22.4 g | OC1=CC(=NN1C)C | C5H8N2O
reactant | o-tolylisocyanate | 0.2 mol, 26.6 g | C=1(C(=CC=CC1)N=C=O)C | C8H7NO
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-Hydroxy-1,3-dimethyl-N-(2-methylphenyl)-1H-pyrazole-4-carboxamide | OC1=C(C(=NN1C)C)C(=O)NC1=C(C=CC=C1)C | C13H15N3O2
